US04304770
Sodium azide (155.9 g.) and water (0.8 l.) were added under stirring to a solution of methyl N-hexyldithiocarbamate (430 g.) in ethanol (1.7 l.) and the resulting mixture was refluxed for 3.5 hours at 90° C. Ethanol was distilled off from the reaction mixture and the residue was washed with diethyl ether (1 l.), adjusted to pH 2.0 with conc.hydrochloric acid and extracted with diethyl ether (1 l.). The extract was washed with water, dried over magnesium sulfate and concentrated to give an oil of 1-hexyl-1H-tetrazole-5-thiol (431.3 g.).

reactant | Sodium azide | 155.9 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 0.8 l | O | H2O
reactant | methyl N-hexyldithiocarbamate | 430 g | C(CCCCC)NC(SC)=S | C8H17NS2
solvent | ethanol | 1.7 l | C(C)O | C2H6O
product | 1-hexyl-1H-tetrazole-5-thiol | 431.3 g | C(CCCCC)N1N=NN=C1S | C7H14N4S
